US07354942B2
To a solution of methyl 3-(hydroxymethyl)-5-[(methylsulfonyl)(propyl)amino]benzoate (2.99 g, 9.92 mmol) in dichloromethane (90 mL) were added carbon tetrabromide (4.28 g, 12.9 mmol) and triphenylphosphine (3.12 g, 11.9 mmol). After 15 h, the reaction mixture was concentrated in vacuo and purified by flash chromatography (silica, 0-40% EtOAc/hexanes) to provide methyl 3-(bromomethyl)-5-[(methylsulfonyl)(propyl)amino]benzoate as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 7.91 (s, 1H), 7.61 (s, 1H), 4.50 (s, 2H), 3.94 (s, 3H), 3.67 (t, J=7.2 Hz, 2H), 2.90 (s, 3H), 1.56-1.46 (m, 2H), 0.92 (t, J=7.3 Hz, 3H).

reactant | methyl 3-(hydroxymethyl)-5-[(methylsulfonyl)(propyl)amino]benzoate | 9.92 mmol, 2.99 g | OCC=1C=C(C(=O)OC)C=C(C1)N(CCC)S(=O)(=O)C | C13H19NO5S
reactant | carbon tetrabromide | 12.9 mmol, 4.28 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 11.9 mmol, 3.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | methyl 3-(bromomethyl)-5-[(methylsulfonyl)(propyl)amino]benzoate | BrCC=1C=C(C(=O)OC)C=C(C1)N(CCC)S(=O)(=O)C | C13H18BrNO4S
